US07163938B2
A. Methyl 2-Methoxymethyl-4-fluorobenzoate.
Into a DMF (200 mL) solution of methyl 4-fluoro-2-hydroxybenzoate (17.0 g, 100 mL), cooled in an ice bath, was added K2CO3 (27.6 g, 200 mmol) and chloromethymethyl ether (9.11 mL, 120 mmol) dropwise. The reaction mixture was allowed to come to room temperature slowly and was stirred 48 h. To the reaction mixture at room temperature was added additional K2CO3 (6.9 g, 50 mmol) and chloromethylmethyl ether (4.5 mL, 60 mmol), and stirring was continued for 24 h. Most of the solvent was evporated in a bath at 60° C., and the residue was partitioned between ether (250 mL) and water (250 mL). The organic layer was washed with 1 N HCl (200 mL), dried (MgSO4), and evaporated. The crude product was chromatographed over silica (eluting with 0 to 20% EtOAc in hexane gradient), giving 11.38 g (57% yield) of the named product as an oil.

reactant | methyl 4-fluoro-2-hydroxybenzoate | 100 mL, 17.0 g | FC1=CC(=C(C(=O)OC)C=C1)O | C8H7FO3
reactant | K2CO3 | 200 mmol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethymethyl ether | 120 mmol, 9.11 mL | ClCOC | C2H5ClO
reactant | K2CO3 | 50 mmol, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethylmethyl ether | 60 mmol, 4.5 mL | ClCOC | C2H5ClO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Methyl 2-Methoxymethyl-4-fluorobenzoate | 11.38 g, 57% yield | COCC1=C(C(=O)OC)C=CC(=C1)F | C10H11FO3
